US04193905
111 g (0.5 mol) of dypnone are heated to 120° C. and 50 g (1 mol) of 100% pure hydrazine hydrate are added at a rate such that the exothermic reaction remains under control. The mixture is then stirred for a further 1 hour at 150° C. and the excess hydrazine is distilled off under a water pump vacuum. The crude pyrazoline is hydrogenated in 400 ml of methanol with 20 g of freshly prepared Raney nickel for 12 hours at 80° C./100 atmospheres. The catalyst is filtered off, the solvent is removed in a rotary evaporator and the product is distilled under a high vacuum. Subsequent fractionation in a 25 cm Vigreux column gives 85 g=70% of theory of a slightly yellowish oil with a boiling point under 0.001 mm of 142° C. About 17% of 2-phenylethylamine also form as a by-product.

reactant | dypnone | 0.5 mol, 111 g | CC(C1=CC=CC=C1)=CC(C1=CC=CC=C1)=O | C16H14O
reactant | hydrazine hydrate | 1 mol, 50 g | O.NN
product | 2-phenylethylamine | 17% | C1(=CC=CC=C1)CCN | C8H11N
